US09255093B2
Step 7: Synthesis of 6-(((3-bromo-4-(trifluoromethoxy)phenyl)amino)methyl)-3-methylbenzofuran-2-carbonitrile
The title compound was prepared as described in general reductive amination procedure, starting from 3-bromo-4-(trifluoromethoxy)aniline and 6-formyl-3-methylbenzofuran-2-carbonitrile, Intermediate 4. LCMS retention time=1.64 minutes (LC method 3); MS (m+1)=426.0.

reactant | 3-bromo-4-(trifluoromethoxy)aniline | BrC=1C=C(N)C=CC1OC(F)(F)F | C7H5BrF3NO
reactant | 6-formyl-3-methylbenzofuran-2-carbonitrile | C(=O)C1=CC2=C(C(=C(O2)C#N)C)C=C1 | C11H7NO2
product | 6-(((3-bromo-4-(trifluoromethoxy)phenyl)amino)methyl)-3-methylbenzofuran-2-carbonitrile | BrC=1C=C(C=CC1OC(F)(F)F)NCC1=CC2=C(C(=C(O2)C#N)C)C=C1 | C18H12BrF3N2O2
